US04433160
A solution of 9.96 g of ethyl α-bromopropionate in 5 ml of anhydrous benzene was added to the di-(p-isobutylphenyl) zinc solution. The reaction mixture was maintained at 50° to 55° C. for 15 hours in an atmosphere of nitrogen. The reaction mixture was then mixed with 175 ml of 1.5 N hydrochloric acid and subsequently with 65 ml of methylene chloride. The mixture was filtered, and the organic layer was separated. The acidic aqueous layer was extracted with two 30 ml portions of methylene chloride. The extracts were combined, washed with 50 ml of water, dried and concentrated. The resulting crude product was purified by silica gel column chromatography to give 2.05 g (yield 18.3%) of ethyl α-(p-isobutylpheny)propionate.

reactant | ethyl α-bromopropionate | 9.96 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | di-(p-isobutylphenyl) zinc | C(C(C)C)C1=CC=C(C=C1)[Zn]C1=CC=C(C=C1)CC(C)C
reactant | hydrochloric acid | 1.5 N, 175 ml | Cl | ClH
reactant | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | ethyl α-(p-isobutylpheny)propionate | 2.05 g, yield 18.3% | C(C(C)C)C1=CC=C(C=C1)C(C(=O)OCC)C | C15H22O2
